US04432979
3 ml of bromine are added to a stirred suspension of 5-(2-pyrazinyl)-2(1H)-pyridone (9.0 g) in 300 ml of glacial acetic acid warmed to a temperature of 50° C. The mixture is stirred at RT overnight, cooled in an ice bath to 16° C. and filtered. The filtered yellow solid is suspended in 100 ml of distilled H2O, to which sodium bisulfite is gradually added until the solid appears tan. A saturated potassium carbonate solution is slowly added until the pH is adjusted to 7.4, and the suspension is filtered. The filtered solid is washed with H2O and dried under high vacuum at 100° C. for 4 hours, giving the desired 3-bromo-5-(2-pyrazinyl)-2(1H)-pyridone which is recrystallized from methanol, M.P. >250° C.

reactant | bromine | 3 ml | BrBr | Br2
reactant | 5-(2-pyrazinyl)-2(1H)-pyridone | 9.0 g | N1=C(C=NC=C1)C=1C=CC(NC1)=O | C9H7N3O
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 3-bromo-5-(2-pyrazinyl)-2(1H)-pyridone | BrC=1C(NC=C(C1)C1=NC=CN=C1)=O | C9H6BrN3O
